US09085555B2
(3-Carbamoyl-1-{2-[(2S,4R)-2-(3-chloro-2-fluoro-benzylcarbamoyl)-4-fluoro-pyrrolidin-1-yl]-2-oxo-ethyl}-1H-indol-6-yloxy)-acetic acid methyl ester
A solution of 1-{2-[(2S,4R)-2-(3-chloro-2-fluoro-benzylcarbamoyl)-4-fluoro-pyrrolidin-1-yl]-2-oxo-ethyl}-6-hydroxy-1H-indole-3-carboxylic acid amide Example 578 (140 mg, 0.285 mmol) in DMSO (3 mL) was treated with Cs2CO3 (0.28 g, 0.85 mmol). The mixture was stirred at RT for 5 min, followed by addition of methyl 2-bromoacetate (0.039 mL, 0.428 mmol) and stirring at RT for 4 h. The mixture was partitioned between water and CH2Cl2, and the organic phase was washed twice with brine (the combined aqueous washings were filtered and the solid thus obtained was dried in vacuo to give an aliquot of the title compound), dried (phase separator) and concentrated under reduced pressure. Purification by preparative HPLC (SunFire C18-ODB, 5 μm, 30×100 mm, eluent: 20-100% CH3CN/H2O/20 min, 100% CH3CN/2 min, CH3CN and H2O containing 0.1% TFA, flow: 40 mL/min) afforded after lyophilization of the purified fractions the title compound as a white solid. MS: 563 [M+H]+; tR (HPLC conditions c): 4.17 min.

reactant | 1-{2-[(2S,4R)-2-(3-chloro-2-fluoro-benzylcarbamoyl)-4-fluoro-pyrrolidin-1-yl]-2-oxo-ethyl}-6-hydroxy-1H-indole-3-carboxylic acid amide | ClC=1C(=C(CNC(=O)[C@H]2N(C[C@@H](C2)F)C(CN2C=C(C3=CC=C(C=C23)O)C(=O)N)=O)C=CC1)F | C23H21ClF2N4O4
reactant | Cs2CO3 | 0.85 mmol, 0.28 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | methyl 2-bromoacetate | 0.428 mmol, 0.039 mL | BrCC(=O)OC | C3H5BrO2
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
product | (3-Carbamoyl-1-{2-[(2S,4R)-2-(3-chloro-2-fluoro-benzylcarbamoyl)-4-fluoro-pyrrolidin-1-yl]-2-oxo-ethyl}-1H-indol-6-yloxy)-acetic acid methyl ester | COC(COC1=CC=C2C(=CN(C2=C1)CC(=O)N1[C@@H](C[C@H](C1)F)C(NCC1=C(C(=CC=C1)Cl)F)=O)C(N)=O)=O | C26H25ClF2N4O6
